US08034811B2
3-Aminooxymethyl-benzonitrile
Prepared by a similar procedure as described for preparation 15, starting from N-hydroxyphthalimide and 3-bromomethyl-benzonitrile. 13C-NMR (CDCl3) δ 139.5, 132.5, 131.7, 131.5, 129.2, 118.7, 112.6, 76.5.

reactant | N-hydroxyphthalimide | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | 3-bromomethyl-benzonitrile | BrCC=1C=C(C#N)C=CC1 | C8H6BrN
product | 3-Aminooxymethyl-benzonitrile | NOCC=1C=C(C#N)C=CC1 | C8H8N2O
